US08609653B2
4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde
A mixture of (4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol in dichloromethane (DCM) (10 mL) was treated with PCC (469 mg, 2.174 mmol) and stirred at ambient temperature for 90 minutes. The reaction was judged complete by LCMS. The mixture was filtered over Celite and the filtrate was concentrated. Half of the residue was purified on a short column of silica gel (7.5 grams, 0-100% hex/EtOAc) to afford the desired product (159 mg, 0.544 mmol, 37.5%) as a yellow solid The rest, 212 mg of crude aldehyde, was used without further purification. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 10.12 (s, 1 H), 7.38-7.31 (m, 1 H), 7.25 (d, J=8.6 Hz, 1 H), 7.16 (s, 1 H), 6.96 (d, J=8.0 Hz, 1 H), 6.49 (s, 1 H), 4.33-4.27 (m, 2 H), 2.99 (br. s., 3 H), 2.88 (t, 2 H), 2.10 (quin, J=5.7 Hz, 2 H); LC/MS (m/z) ES+=293.24 (M+1).

reactant | (4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol | O1CCCC2=CC(=CC=C12)C1=C2C(=NC(=C1CO)C)NC=C2 | C18H18N2O2
reactant | PCC | 2.174 mmol, 469 mg | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 0.544 mmol, 159 mg, 37.5% | O1CCCC2=CC(=CC=C12)C1=C2C(=NC(=C1C=O)C)NC=C2 | C18H16N2O2
